* Subcircuit Sanket_SRAM_CELL
.subckt Sanket_SRAM_CELL net-_sc1-pad1_ net-_sc1-pad3_ net-_sc2-pad3_ net-_sc1-pad2_ net-_sc6-pad1_ 
* e:\fossee\esim\library\subcircuitlibrary\sanket_sram_cell\sanket_sram_cell.cir
xsc3 net-_sc1-pad3_ net-_sc2-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt
xsc5 net-_sc2-pad2_ net-_sc1-pad3_ gnd gnd sky130_fd_pr__nfet_01v8_lvt
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ gnd sky130_fd_pr__nfet_01v8_lvt
xsc6 net-_sc6-pad1_ net-_sc1-pad2_ net-_sc2-pad2_ gnd sky130_fd_pr__nfet_01v8_lvt
xsc2 net-_sc1-pad3_ net-_sc2-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt
xsc4 net-_sc2-pad2_ net-_sc1-pad3_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__pfet_01v8_lvt
* Control Statements

.ends Sanket_SRAM_CELL