* e:\fossee\esim\library\subcircuitlibrary\sram_cell\sram_cell.cir

.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tu
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "E:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
xsc3 /bbl net-_sc2-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc5 net-_sc2-pad2_ /bbl gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc2 /bbl net-_sc2-pad2_ /vdd /vdd sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc2-pad2_ /bbl /vdd /vdd sky130_fd_pr__pfet_01v8_lvt 
xsc1 /bl /wl /bbl gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 /blb /wl net-_sc2-pad2_ gnd sky130_fd_pr__nfet_01v8_lvt 
* u1  /wl /bl ? /vdd /blb port
* s c m o d e
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
