* e:\fossee\esim\library\subcircuitlibrary\sanket_1bit_sram\sanket_1bit_sram.cir

.include Sanket_SRAM_CELL.sub
x1 net-_u4-pad3_ net-_sc1-pad2_ net-_sc1-pad3_ net-_u2-pad1_ net-_u4-pad4_ Sanket_SRAM_CELL
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ sanket_write_ckt
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u4  net-_u1-pad3_ net-_u1-pad4_ net-_u4-pad3_ net-_u4-pad4_ dac_bridge_2
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_sc3-pad2_ net-_sc5-pad1_ port
v1 net-_sc1-pad3_ gnd  dc 1.8
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc1-pad1_ net-_sc3-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 net-_sc5-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc2-pad3_ net-_sc3-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc6 net-_sc5-pad1_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
a3 [net-_u1-pad3_ net-_u1-pad4_ ] [net-_u4-pad3_ net-_u4-pad4_ ] u4
* Schematic Name:                             sanket_write_ckt, NgSpice Name: sanket_write_ckt
.model u1 sanket_write_ckt(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
