* Subcircuit BIT_ADDRESSABLE_SRAM_1BIT
.subckt BIT_ADDRESSABLE_SRAM_1BIT net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ 
* e:\fossee\esim\library\subcircuitlibrary\bit_addressable_sram_1bit\bit_addressable_sram_1bit.cir
.include SANKET_1BIT_SRAM.sub
x1 net-_u4-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ SANKET_1BIT_SRAM
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u4  net-_u1-pad3_ net-_u4-pad2_ dac_bridge_1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ? sanket_write_ckt
a1 [net-_u2-pad1_ net-_u2-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
a2 [net-_u1-pad3_ ] [net-_u4-pad2_ ] u4
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [? ] u1
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Schematic Name:                             sanket_write_ckt, NgSpice Name: sanket_write_ckt
.model u1 sanket_write_ckt(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Control Statements

.ends BIT_ADDRESSABLE_SRAM_1BIT