* e:\fossee\esim\library\subcircuitlibrary\sanket_8x8_bit_addressable_ram\sanket_8x8_bit_addressable_ram.cir

.include BIT_ADDRESSABLE_SRAM_1BIT.sub
x1 net-_u1-pad1_ net-_u1-pad26_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ BIT_ADDRESSABLE_SRAM_1BIT
x2 net-_u1-pad5_ net-_u1-pad26_ net-_u1-pad6_ net-_u1-pad3_ net-_u1-pad7_ BIT_ADDRESSABLE_SRAM_1BIT
x3 net-_u1-pad8_ net-_u1-pad26_ net-_u1-pad9_ net-_u1-pad3_ net-_u1-pad10_ BIT_ADDRESSABLE_SRAM_1BIT
x4 net-_u1-pad11_ net-_u1-pad26_ net-_u1-pad12_ net-_u1-pad3_ net-_u1-pad13_ BIT_ADDRESSABLE_SRAM_1BIT
x5 net-_u1-pad14_ net-_u1-pad26_ net-_u1-pad15_ net-_u1-pad3_ net-_u1-pad16_ BIT_ADDRESSABLE_SRAM_1BIT
x6 net-_u1-pad17_ net-_u1-pad26_ net-_u1-pad18_ net-_u1-pad3_ net-_u1-pad19_ BIT_ADDRESSABLE_SRAM_1BIT
x7 net-_u1-pad20_ net-_u1-pad26_ net-_u1-pad21_ net-_u1-pad3_ net-_u1-pad22_ BIT_ADDRESSABLE_SRAM_1BIT
x8 net-_u1-pad23_ net-_u1-pad26_ net-_u1-pad24_ net-_u1-pad3_ net-_u1-pad25_ BIT_ADDRESSABLE_SRAM_1BIT
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ port
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
